US06972340B2
N-[5-({N-acetyl-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-3-ethylphenylalanyl}amino)pentanoyl]-L-tyrosine
(2S)-2-[(5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoyl)amino]-3-(4-tert-butoxyphenyl)propanoic acid was treated with trifluoroacetic acid/dichloromethane (1 mL, 1:1) at ambient temperature for 3 hours, concentrated under reduced pressure and purified by HPLC eluting with 5-100% acetonitrile/aqueous 0.1% trifluoroacetic acid to provide the titled compound. MS (ESI(+)) m/e 705 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ 12-13.5 (bs, 2H), 9.18 (s, 1H), 8.11-7.78 (m, 4H), 7.59-6.98 (m, 7H), 6.80-6.61 (m, 3H), 4.57-4.40 (m, 1H), 4.39-4.32 (m, 1H), 3.00-2.55 (m, 6H), 2.04-2.00 (m, 2H), 1.78, 1.75 (s, s, 3H), 1.40-1.36 (m, 2H), 1.35-1.20 (m, 2H), 1.35-0.91 (m, 3H).

reactant | (2S)-2-[(5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoyl)amino]-3-(4-tert-butoxyphenyl)propanoic acid | C(C)(=O)NC(C(=O)NCCCCC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C)CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)OC(C)(C)C)=O)CC | C57H66N4O11
reactant | trifluoroacetic acid dichloromethane | 1 mL | FC(C(=O)O)(F)F.ClCCl
product | N-[5-({N-acetyl-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-3-ethylphenylalanyl}amino)pentanoyl]-L-tyrosine | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)O)C(=O)C(=O)O)CC)C(=O)NCCCCC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C36H40N4O11
